US04159984
To a solution of 1.59 g of diphenylmethyl α-(3ξ-chloroacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 16 ml of acetic acid is added 1.5 g of zinc powder, and the mixture stirred at room temperature for 1 hour, then poured into water and extracted with methylene chloride. The extract is washed with water, dried on magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography on 30 g of silica gel containing 10% water and eluted with benzene containing 10% ethyl acetate to yield 1.21 g of diphenylmethyl α-(3ξ-acetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 81% yield.

reactant | diphenylmethyl α-(3ξ-chloroacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 1.59 g | ClCC(=O)C1NC2(C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C32H29ClN2O6
reactant | water | O | H2O
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.5 g | [Zn] | Zn
product | diphenylmethyl α-(3ξ-acetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 1.21 g, 81% yield | C(C)(=O)C1NC2(C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C32H30N2O6
